US04994600
A mixture of 268 mg of methyl β-benzoyl-α-methoxypropionate, 150 mg of paratoluenesulfonic acid monohydrate and 5 ml of toluene was stirred at 80° C. for 1 hour. A pressure was reduced with an aspirator and a total amount of the resultant was reduced to 1/2 by concentration. The resultant was stirred at 80° C. for 20 minutes and was left for cooling. The reaction mixture was distributed between ethyl acetate and water and the ethyl acetate layer was washed with a saturated solution of NaHCO3 and then with water, and was dried with anhydrous magnesium sulfate. The solvent was distilled away to give 206 mg of methyl trans-β-benzoylacrylate as a yellow oil.

reactant | methyl β-benzoyl-α-methoxypropionate | 268 mg | C(C1=CC=CC=C1)(=O)CC(C(=O)OC)OC | C12H14O4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | methyl trans-β-benzoylacrylate | 206 mg | C(C1=CC=CC=C1)(=O)/C=C/C(=O)OC | C11H10O3
